US06169091A
4-(4-Cyclohexylmethoxyanilino)thieno[3,2-d]pyrimidine hydrochloride
4-Chlorothieno[3,2-d]pyrimidine (0.171 g, 1.00 mmol) and 4-cyclohexylmethoxy-aniline (prepared according to the published method: WO 96/09294) (0.205 g, 1.00 mmol) were reacted in 2-propanol (5 ml) for 5 hours, according to Procedure A. The product was obtained as cream prisms (0.255 g, 68%) with m.p. 232-233° C.; (Found: C, 60.65; H, 5.68; N, 11.25. C19H21N3OS.HCl requires: C, 60.71; H, 5.90; N, 11.23%); δH [2H6]-DMSO 11.11 (1H, br s, NH), 8.71 (1H, s, 2-H), 8.41 (1H, d, J 7,6 H or 7 H) 7.44-7.58 (3H, m, 6H or 7H, 2′-H, 6′-H), 7.03 (2H, d, J 9, 3′-H, 5′-H), 3.84 (2H, s, CH2), 1.58-1.90 (6H, m) and 0.98-1.33 (5H, m) (cyclohexyl-H11); m/z 339 (M+).

reactant | 4-Chlorothieno[3,2-d]pyrimidine | 1.00 mmol, 0.171 g | ClC=1C2=C(N=CN1)C=CS2 | C6H3ClN2S
reactant | 4-cyclohexylmethoxy-aniline | C1(CCCCC1)COC1=CC=C(N)C=C1 | C13H19NO
solvent | 2-propanol | 5 ml | CC(C)O | C3H8O
product | 4-(4-Cyclohexylmethoxyanilino)thieno[3,2-d]pyrimidine hydrochloride | 0.255 g, 68% | Cl.C1(CCCCC1)COC1=CC=C(NC=2C3=C(N=CN2)C=CS3)C=C1 | InChI=1S/C19H21N3OS.ClH/c1-2-4-14(5-3-1)12-23-16-8-6-15(7-9-16)22-19-18-17(10-11-24-18)20-13-21-19;/h6-11,13-14H,1-5,12H2,(H,20,21,22);1H
